US08110687B2
Platinum dioxide (1.9 mg, 0.0082 mmol) was added to a solution of tert-butyl [3-[({7-[(7-oxo-7,8-dihydro-1,8-naphthyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalen-2-yl}-carbonyl)amino]-5-(trifluoromethyl)benzyl]carbamate (20 mg, 0.033 mmol) in AcOH (0.5 mL). The solution was allowed to stir under an atmosphere of hydrogen at rt. After 28 hr, an additional amount of platinum dioxide was added (1.9 mg, 0.0082 mmol) and the reaction continued to stir under an atmosphere of hydrogen for a total of 46 h. The reaction mixture was then filtered through Celite and the residue was purified by column chromatography to give tert-butyl [3-[({7-[(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-4-yl)oxy]-1,2,3,4tetrahydronaphthalen-2-yl}carbonyl)amino]-5-(trifluoromethyl)benzyl]carbamate (9.0 mg, 45%) as a white solid. LCMS: (FA) ES+ 611.4.

reactant | tert-butyl [3-[({7-[(7-oxo-7,8-dihydro-1,8-naphthyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalen-2-yl}-carbonyl)amino]-5-(trifluoromethyl)benzyl]carbamate | 0.033 mmol, 20 mg | O=C1C=CC=2C(=CC=NC2N1)OC1=CC=C2CCC(CC2=C1)C(=O)NC=1C=C(CNC(OC(C)(C)C)=O)C=C(C1)C(F)(F)F | C32H31F3N4O5
solvent | AcOH | 0.5 mL | CC(=O)O | C2H4O2
catalyst | Platinum dioxide | 0.0082 mmol, 1.9 mg | [Pt](=O)=O
product | tert-butyl [3-[({7-[(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-4-yl)oxy]-1,2,3,4tetrahydronaphthalen-2-yl}carbonyl)amino]-5-(trifluoromethyl)benzyl]carbamate | 9.0 mg, 45% | O=C1CCC=2C(=CC=NC2N1)OC1=CC=C2CCC(CC2=C1)C(=O)NC=1C=C(CNC(OC(C)(C)C)=O)C=C(C1)C(F)(F)F | C32H33F3N4O5
